US07320972B2
Dimethyl [3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]phosphonate
Bis(dibenzylidineacetone)palladium(0) (0.10 g, 0.17 mmol and tricyclohexylphosphine (0.12 g, 0.43 mmol) were stirred 30 min in dry dioxane (1.0 mL) under an atmosphere of nitrogen at room temperature. Dimethyl (3-chlorophenyl)phosphonate (0.50 g, 2.26 mmol), bis(pinacolato)diboron (0.70 g, 0.27 mmol) and potassium acetate (0.30 g, 0.30 mmol) were mixed in dry dioxane (3.0 mL) at room temperature under a nitrogen atmosphere in a separate flask. A portion of the palladium catalyst solution (0.20 mL) was syringed into the flask containing the chlorophosphonate and this mixture was heated at 80° C. Additional 0.2 mL portions of the catalyst solution were syringed into the reaction mixture after 4 h and 8 h of heating at 80° C., then heating was continued overnight at 80° C. The reaction mixture was filtered through Celite® and the solvent was removed by rotary evaporation under reduced pressure. Chromatography over silica gel using ethyl acetate-hexane (gradient: 0% ethyl acetate to 80%) dimethyl [3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]phosphonate as a colorless oil (0.41 g). 1H NMR showed a 60:40 mixture of product plus recovered starting material. This mixture was used as is in the next reaction without further purification. 1H NMR (300 MHz, CDCl3) δ 8.22 (d, J=13.2 Hz, 1H), 7.95-8.00 (m, 1H), 7.88 (ddt, J=13.0, 7.5, 1.4 Hz, 1H), 7.43-7.50 (m, 1H), 3.76 (s, 3H), 3.73 (s, 3H) ppm; MS [M+H]+ 312, [2M+H]+ 625.

reactant | tricyclohexylphosphine | 0.43 mmol, 0.12 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | Dimethyl (3-chlorophenyl)phosphonate | 2.26 mmol, 0.50 g | ClC=1C=C(C=CC1)P(OC)(OC)=O | C8H10ClO3P
reactant | bis(pinacolato)diboron | 0.27 mmol, 0.70 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.30 mmol, 0.30 g | C(C)(=O)[O-].[K+]
reactant | chlorophosphonate | ClP([O-])([O-])=O
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
catalyst | palladium | [Pd] | Pd
product | Dimethyl [3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]phosphonate | CC1(OB(OC1(C)C)C=1C=C(C=CC1)P(OC)(OC)=O)C | C14H22BO5P
